US04411900
A solution of 1-bromo-5-chloro-2-pentanone (6.7 g) and thioacetamide (2.5 g) in methanol (10 ml) was stirred at 50° C. for 5 hours. After concentration of the reaction mixture, the residue was allowed to stand for 10 days. The crystalline residue was suspended in a mixture of methanol and diethyl ether and the remained solid was collected by filtration to give brown powder (7.3 g) of 4-(3-chloropropyl)-2-methylthiazole monohydrobromide.

reactant | 1-bromo-5-chloro-2-pentanone | 6.7 g | BrCC(CCCCl)=O | C5H8BrClO
reactant | thioacetamide | 2.5 g | C(C)(=S)N | C2H5NS
solvent | methanol | 10 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(3-chloropropyl)-2-methylthiazole monohydrobromide | 7.3 g | Br.ClCCCC=1N=C(SC1)C | InChI=1S/C7H10ClNS.BrH/c1-6-9-7(5-10-6)3-2-4-8;/h5H,2-4H2,1H3;1H
